US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-methyl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid
5-Hydroxy-1-methyl-1H-pyrazole-3-carboxylic acid (19.6 mg, 138 μmol) was combined with HCTU (56.9 mg, 138 μmol) in DMF. The mixture was stirred for 10 minutes at room temperature before adding DIPEA (72 μL, 413 μmol) and (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (50 mg, 0.1 mmol). The resulting mixture was stirred overnight at room temperature. EtOH (402 μL, 6.9 mmol) and 1 M LiOH in water (1.1 mL, 1.1 mmol) was added and the mixture was stirred at room temperature for 1 hour. The mixture was evaporated under reduced pressure and purified by preparative HPLC to yield the title compound (6.4 mg). MS m/z [M+H]+ calc'd for C22H22ClN3O5, 444.12. found 444.4.

reactant | 5-Hydroxy-1-methyl-1H-pyrazole-3-carboxylic acid | 138 μmol, 19.6 mg | OC1=CC(=NN1C)C(=O)O | C5H6N2O3
reactant | HCTU | 138 μmol, 56.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 413 μmol, 72 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 0.1 mmol, 50 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
reactant | EtOH | 6.9 mmol, 402 μL | CCO | C2H6O
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | water | 1.1 mmol, 1.1 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-methyl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid | 6.4 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=NN(C(=C1)O)C | C22H22ClN3O5
